US07846960B2
1-(2,6-Dichloro-phenyl)-4-isopropyl-5-[4-(2-methoxy-1-methyl-vinyl)-3-methyl-phenoxymethyl]-1H-pyrazole
To a room temperature suspension of potassium tert-butoxide (1.36 g, 12.12 mmol) in THF (30 mL) is added (methoxymethyl)triphenyl phosphonium chloride (4.14 g, 12.12 mmol). The reaction mixture is stirred at room temperature for 20 minutes. Solid 1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethanone (843 mg, 2.02 mmol) is added and the reaction is stirred at room temperature overnight. The reaction is quenched with saturated aqueous NH4Cl and is concentrated under reduced pressure. The residue is partitioned between Et2O and water. The aqueous layer is extracted with Et2O and the combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated under reduced pressure, and chromatographed (0% to 30% EtOAc/Hex) to yield the title compound (836 mg, 93%) as a mix of E/Z isomers. (Major Isomer) 1H NMR (400 MHz, CDCl3) δ 7.70 (s, 1H), 7.41 (d, 2H, J=7.9 Hz), 7.33-7.28 (m, 1H), 6.93 (d, 1H, J=8.4 Hz), 6.64-6.52 (m, 2H), 5.83 (q, 1H, J=1.3 Hz), 4.78 (s, 2H), 3.63 (s, 3H), 3.00 (sept, 1H, J=7.0 Hz), 2.22 (s, 3H), 1.83 (d, 3H, J=1.3 Hz), 1.30 (d, 6H, J=7.0 Hz).

reactant | potassium tert-butoxide | 12.12 mmol, 1.36 g | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenyl phosphonium chloride | 12.12 mmol, 4.14 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethanone | 2.02 mmol, 843 mg | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(C)=O)C)C(C)C | C22H22Cl2N2O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(2,6-Dichloro-phenyl)-4-isopropyl-5-[4-(2-methoxy-1-methyl-vinyl)-3-methyl-phenoxymethyl]-1H-pyrazole | 836 mg, 93% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(=COC)C)C)C(C)C | C24H26Cl2N2O2
